US09216991B2
Step 2: Formation of 8-(4-Bromo-pyrazol-1-yl)-1-aza-spiro[4.5]decan-2-one
Hydrobromic acid (1.04 mL of a 48 wt % solution in water; 9.18 mmol; 2.0 eq.) was added to a solution of N′-(2-Oxo-1-aza-spiro[4.5]dec-8-yl)-hydrazinecarboxylic acid tert-butyl ester (1.30 g; 4.59 mmol; 1.0 eq.) and 2-Bromo-malonaldehyde (865 mg; 5.51 mmol; 1.2 eq.) in AcOH (13 mL). The reaction mixture was stirred at RT for 2 hour. It was then basified to pH 5 by addition of a 5N NaOH solution and extracted with DCM (three times). Combined organic phases were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by autopreparative LC/MS afforded the title compound as the pure cis-isomer (1.0 g, 94%).

reactant | Hydrobromic acid | Br | BrH
reactant | N′-(2-Oxo-1-aza-spiro[4.5]dec-8-yl)-hydrazinecarboxylic acid tert-butyl ester | 4.59 mmol, 1.30 g, 1.0 eq. | C(C)(C)(C)OC(=O)NNC1CCC2(CCC(N2)=O)CC1 | C14H25N3O3
reactant | 2-Bromo-malonaldehyde | 5.51 mmol, 865 mg, 1.2 eq. | BrC(C=O)C=O | C3H3BrO2
reactant | NaOH | 5N | [OH-].[Na+]
solvent | water | O | H2O
solvent | AcOH | 13 mL | CC(=O)O | C2H4O2
product | 8-(4-Bromo-pyrazol-1-yl)-1-aza-spiro[4.5]decan-2-one | BrC=1C=NN(C1)C1CCC2(CCC(N2)=O)CC1 | C12H16BrN3O
